US05910498
1-(3-amino-6-chloro-4-fluorophenyl)-8-chloro-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
To 5 ml of formic acid were added 1.5 g of ethyl 8-chloro-6,7-difluoro-1-(2-chloro-4-fluoro-5-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate and 2 g of iron. The solution was heated and stirred at 60° C. for 2 hours. The insoluble was removed by filtration through celite and washed with formic acid and chloroform. The filtrate was concentrated in vacua. Ethanol was added to the residue whereupon the solid was collected by filtration and washed with diethyl ether. To the solid were added 4 ml of conc. hydrochloric acid and 4 ml of acetic acid. The solution was heated at reflux for 1 hour and allowed to cool down. The precipitated was collected by filtration and washed with ethanol and diethyl ether to give 970 mg of the title compound.

reactant | ethyl 8-chloro-6,7-difluoro-1-(2-chloro-4-fluoro-5-nitrophenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.5 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl)C(=O)OCC)=O)F)F | C18H9Cl2F3N2O5
catalyst | iron | 2 g | [Fe] | Fe
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | 1-(3-amino-6-chloro-4-fluorophenyl)-8-chloro-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 970 mg | NC=1C=C(C(=CC1F)Cl)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O | C16H7Cl2F3N2O3
